US08491868B2
To a solution of tert-butyl 4-(4-hydroxyphenyl)-piperazine-1-carboxylate (1.0 g, 3.59 mmol) in DMSO (12 mL) was added potassium carbonate (745 mg, 5.39 mmol), potassium iodide (18 mg, 0.11 mmol) and 1-bromo-2-fluoroethane (294 μL, 3.95 mmol). The reaction stirred at 50° C. overnight. The next day, additional amounts of potassium carbonate (745 mg, 5.39 mmol), 1-bromo-2-fluoroethane (134 μL, 1.79 mmol), and potassium iodide (18 mg, 0.11 mmol) were added. The reaction mixture continued to stir at 50° C. After 5 h the reaction mixture was cooled to room temperature, quenched with water (10 mL), and extracted with EtOAc (3×50 mL). The combined organic layers were washed with water (100 mL), brine (50 mL), dried over Na2SO4, and concentrated to obtain a brown solid. The crude material was purified using silica gel chromatography (1:4 hexanes:EtOAc) to obtain tert-butyl 4-(4-(2-fluoroethoxy)phenyl)piperazine-1-carboxylate as a white solid (440 mg, 38% yield). 1H NMR (300 MHz, DMSO-d6): δ 6.92-6.84 (m, 4H), 4.78 (m, 1H), 4.62 (m, 1H), 4.20 (m, 1H), 4.10 (m, 1H), 3.45 (dd, 4H, J=5.2, 5.0 Hz), 2.96 (dd, 4H, J=5.3, 5.0 Hz), 1.42 (s, 9H); 19F NMR (282.4 MHz, DMSO-d6): δ−222.04 (m, 1F); 13C NMR (75.5 MHz, DMSO-d6): δ 153.8, 152.1, 145.5, 117.9, 115.1, 83.2 (81.1), 78.9, 67.4 (67.2), 49.7, 43.2, 28.0; HRMS calcd. for C17H25FN2O3: 325.19220 found 325.19230.

reactant | tert-butyl 4-(4-hydroxyphenyl)-piperazine-1-carboxylate | 3.59 mmol, 1.0 g | OC1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H22N2O3
reactant | potassium carbonate | 5.39 mmol, 745 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-fluoroethane | 3.95 mmol, 294 μL | BrCCF | C2H4BrF
reactant | potassium carbonate | 5.39 mmol, 745 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-fluoroethane | 1.79 mmol, 134 μL | BrCCF | C2H4BrF
solvent | DMSO | 12 mL | CS(=O)C | C2H6OS
catalyst | potassium iodide | 0.11 mmol, 18 mg | [I-].[K+]
catalyst | potassium iodide | 0.11 mmol, 18 mg | [I-].[K+]
product | tert-butyl 4-(4-(2-fluoroethoxy)phenyl)piperazine-1-carboxylate | 440 mg, 38% yield | FCCOC1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C17H25FN2O3
